* Version 1 low-side MOSFET brushed-DC motor switch
* Simulation only. This is not measured hardware validation.

.param VM=12
.param PWMF=20000
.param DUTY=0.50
.param RMOTOR=16
.param LMOTOR=1m
.param RSHUNT=0.05

Vbat VMOTOR 0 {VM}
Vpwm GATE_CTRL 0 PULSE(0 5 0 50n 50n {DUTY/PWMF} {1/PWMF})

Rg GATE_CTRL GATE 22
Rpd GATE 0 100k

M1 SW GATE SENSE 0 NMOS_LOGIC
Rshunt SENSE 0 {RSHUNT}

Rmotor VMOTOR MTR_INT {RMOTOR}
Lmotor MTR_INT SW {LMOTOR}
Dfly SW VMOTOR DFLY
Cbulk VMOTOR 0 470u Rser=0.05

.model DFLY D(Is=1n Rs=0.05 N=1.05 Cjo=200p Bv=40 Ibv=1m)
.model NMOS_LOGIC NMOS(Vto=2.0 Kp=80m Rd=20m Rs=10m Rg=2 Cgdmax=1n Cgs=1.5n Cds=200p)

.tran 0 10m 0 1u
.meas tran I_MOTOR_AVG AVG I(Rmotor) FROM=5m TO=10m
.meas tran I_MOTOR_PK MAX I(Rmotor) FROM=0 TO=10m
.meas tran V_SW_PK MAX V(SW) FROM=0 TO=10m
.end
